datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(CN)[NH2:10].CN(C)C=[N+:21](c1ccc(Br)cc1)[H:20]>>CC(CN)[NH2+:10][H:20].CN(C)C=[N:21]c1ccc(Br)cc1 10=20;20,21=21",
"CC(CC(C#N)(c1ccccc1)c1ccccc1)[N+:21]1([H:20])CCOCC1.OC[O-:10]>>CC(CC(C#N)(c1ccccc1)c1ccccc1)[N:21]1CCOCC1.OC[O:10][H:20] 10=20;20,21=21",
"CCOc1ccc(C)c(C(=O)[O:21][H:20])c1.Fc1ccc([O-:10])c(CN2CCOCC2)c1>>CCOc1ccc(C)c(C(=O)[O-:21])c1.Fc1ccc([O:10][H:20])c(CN2CCOCC2)c1 10=20;20,21=21",
"C[Si](C)(C)C[NH:10]c1ccccc1.Cc1ccc([NH2+:21][H:20])c(C)c1>>C[Si](C)(C)C[NH+:10](c1ccccc1)[H:20].Cc1ccc([NH2:21])c(C)c1 10=20;20,21=21",
"CN(C)c1cccc2c(S(=O)(=O)[N:21](CC[NH+](C)C)[H:20])cccc12.Cc1ccccc1/C(=N/CCC[N:10](C)C)c1ccccc1>>CN(C)c1cccc2c(S(=O)(=O)[N-:21]CC[NH+](C)C)cccc12.Cc1ccccc1/C(=N/CCC[N+:10](C)(C)[H:20])c1ccccc1 10=20;20,21=21",
"CCCCC[NH+:21](Cc1ccccc1O)[H:20].Cc1ccc2c(c1)c1c3c([n:10]ccn32)CCC1>>CCCCC[NH:21]Cc1ccccc1O.Cc1ccc2c(c1)c1c3c([n+:10]([H:20])ccn32)CCC1 10=20;20,21=21",
"CCCC[O-:10].O=C(C1=CN=CC=C1)[CH:21](C1=CC=C(Cl)C([N+](=O)[O-])=C1)[H:20]>>CCCC[O:10][H:20].O=C(C1=CN=CC=C1)[CH-:21]C1=CC=C(Cl)C([N+](=O)[O-])=C1 10=20;20,21=21",
"CC(C)(C)[C@]1(O)CC[N+:21]2([H:20])C[C@@H](c3ccccc3)c3ccccc3[C@@H]2C1.CN1C(=O)[N-:10]C(=O)c2[nH]cnc21>>CC(C)(C)[C@]1(O)CC[N:21]2C[C@@H](c3ccccc3)c3ccccc3[C@@H]2C1.CN1C(=O)[N:10]([H:20])C(=O)c2[nH]cnc21 10=20;20,21=21",
"COc1ccc([N+](=O)[O-])c(C[NH2:10])c1.O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>COc1ccc([N+](=O)[O-])c(C[NH2+:10][H:20])c1.O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"C[NH2+][C@H]1C(C)[C@@H]1[NH+:21](C)[H:20].O=C([C@@H]1O[C@H](Oc2cccc3ccc[nH+]c23)[C@@H](O)[C@H](O)[C@H]1O)[O-:10]>>C[NH2+][C@H]1C(C)[C@@H]1[NH:21]C.O=C([C@@H]1O[C@H](Oc2cccc3ccc[nH+]c23)[C@@H](O)[C@H](O)[C@H]1O)[O:10][H:20] 10=20;20,21=21",
"CC[NH+](CC)CCNc1cc(C)[n+:21]([H:20])c(N)n1.O=S(=O)(NCc1ccco1)c1ccc([NH2:10])cc1>>CC[NH+](CC)CCNc1cc(C)[n:21]c(N)n1.O=S(=O)(NCc1ccco1)c1ccc([NH2+:10][H:20])cc1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20].Oc1ccccc1CN1CCCNCCC[NH:10]CCC1>>O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-].Oc1ccccc1CN1CCCNCCC[NH+:10]([H:20])CCC1 10=20;20,21=21",
"O=C([O-])C1CC[NH:10]1.O=C(c1ccccc1)c1cccc([N+](=O)[O-])c1C(=O)[O:21][H:20]>>O=C([O-])C1CC[NH+:10]1[H:20].O=C(c1ccccc1)c1cccc([N+](=O)[O-])c1C(=O)[O-:21] 10=20;20,21=21",
"CC(C)(C)[NH2+]CC(=O)c1ccc([O:21][H:20])cc1.C[NH+](C)CCCNc1cc[n:10]c2ccc([N+](=O)[O-])cc12>>CC(C)(C)[NH2+]CC(=O)c1ccc([O-:21])cc1.C[NH+](C)CCCNc1cc[n+:10]([H:20])c2ccc([N+](=O)[O-])cc12 10=20;20,21=21",
"O=[N+]([O-])c1cc([N+](=O)[O-])c2cn[nH]c2c1[O:21][H:20].O[C@H](c1ccccc1)[C@@H](c1ccccc1)[NH2:10]>>O=[N+]([O-])c1cc([N+](=O)[O-])c2cn[nH]c2c1[O-:21].O[C@H](c1ccccc1)[C@@H](c1ccccc1)[NH2+:10][H:20] 10=20;20,21=21",
"CCC[NH:10]Cc1ccc(C)cc1.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CCC[NH+:10](Cc1ccc(C)cc1)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"C[NH+:21](CCc1ccccc1)[H:20].N#Cc1ccc([O-:10])cc1>>C[NH:21]CCc1ccccc1.N#Cc1ccc([O:10][H:20])cc1 10=20;20,21=21",
"C1C/C(=N\[O:21][H:20])c2nonc2C1.O=C(COc1ccccc1[N+](=O)[O-])[O-:10]>>C1C/C(=N\[O-:21])c2nonc2C1.O=C(COc1ccccc1[N+](=O)[O-])[O:10][H:20] 10=20;20,21=21",
"CCCCCCCC[NH:10]CCC(=O)[O-].O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CCCCCCCC[NH+:10](CCC(=O)[O-])[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CC1CNCC[NH:10]1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC1CNCC[NH+:10]1[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CN(C)C1CC(C)(C)[NH:10]C(C)(C)C1.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CN(C)C1CC(C)(C)[NH+:10]([H:20])C(C)(C)C1.C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CC(C)(C)OC(=O)[N:21](S(=O)(=O)c1ccc(S(C)(=O)=O)cc1)[H:20].Cc1ccc([N-:10]C(=S)c2ccccc2)cc1>>CC(C)(C)OC(=O)[N-:21]S(=O)(=O)c1ccc(S(C)(=O)=O)cc1.Cc1ccc([N:10](C(=S)c2ccccc2)[H:20])cc1 10=20;20,21=21",
"Cc1ccc(/N=N/c2ccc([N+:21](C)(C)[H:20])cc2)cc1C.ONc1nc[n:10]c2nc[nH]c12>>Cc1ccc(/N=N/c2ccc([N:21](C)C)cc2)cc1C.ONc1nc[n+:10]([H:20])c2nc[nH]c12 10=20;20,21=21",
"CCc1cc(C)[n:10]nc1C.O=P([O-])(O)[O:21][H:20]>>CCc1cc(C)[n+:10]([H:20])nc1C.O=P([O-])(O)[O-:21] 10=20;20,21=21",
"Cc1ccn(-c2cccc[n:10]2)n1.O=[N+]([O-])c1c([NH2+:21][H:20])ccc2ccccc12>>Cc1ccn(-c2cccc[n+:10]2[H:20])n1.O=[N+]([O-])c1c([NH2:21])ccc2ccccc12 10=20;20,21=21",
"CN1C(=O)c2c([n:10]cn2CC(=O)[O-])N(C)C1=O.O=C(C1CCCOC1)[O:21][H:20]>>CN1C(=O)c2c([n+:10]([H:20])cn2CC(=O)[O-])N(C)C1=O.O=C(C1CCCOC1)[O-:21] 10=20;20,21=21",
"CCCCCCCCCCCCCCCCCC[NH2:10].Cc1ccc([N+:21]2([H:20])CCCC2)cc1>>CCCCCCCCCCCCCCCCCC[NH2+:10][H:20].Cc1ccc([N:21]2CCCC2)cc1 10=20;20,21=21",
"CCc1cc(C)cc([O:21][H:20])c1.O=S(=O)(c1nc2ccccc2s1)[NH-:10]>>CCc1cc(C)cc([O-:21])c1.O=S(=O)(c1nc2ccccc2s1)[NH:10][H:20] 10=20;20,21=21",
"COc1cc(OS(C)(=O)=O)ccc1-c1cn2cccnc2[n:10]1.Cc1ccc2ccc3cccnc3c2[n+:21]1[H:20]>>COc1cc(OS(C)(=O)=O)ccc1-c1cn2cccnc2[n+:10]1[H:20].Cc1ccc2ccc3cccnc3c2[n:21]1 10=20;20,21=21",
"C/C(c1ccccc1O)=[N:10]\c1ccccc1O.NC(=O)C(N)CCC(=O)[O:21][H:20]>>C/C(c1ccccc1O)=[N+:10](\c1ccccc1O)[H:20].NC(=O)C(N)CCC(=O)[O-:21] 10=20;20,21=21",
